US05464852
Di(t-butylsulfonyl)acetylene (1.50 g.) was added to part (75 mL) of the above-described solution of 2-azidomethyl-4-isopropyl-6-methoxysaccharin in benzene. The resulting solution was heated under reflux for 65 hours, then chromatographed on silica gel (Kieselgel 60, 68 g) using first benzene and then cyclohexane-ethyl acetate (90:10, then 85:15, then 75:25) as eluant. The fractions containing the product, which were identified by thin layer chromatography, were combined and recrystallized from benzene-cyclohexane. Part (0.5 g) of the resulting product (1.5 g, m.r. 204°-205° C., 26% yield for both steps) was recrystallized twice from ethyl acetate affording 2-[4,5-di(t-butylsulfonyl)-1,2,3-triazol-1-yl]methyl-4-isopropyl-6-methoxysaccharin as pale yellow elongated prisms (0.15 g, m.r. 207.5°-209° C.).

reactant | Di(t-butylsulfonyl)acetylene | 1.50 g | C(C)(C)(C)S(=O)(=O)C#CS(=O)(=O)C(C)(C)C | C10H18O4S2
reactant | 2-azidomethyl-4-isopropyl-6-methoxysaccharin | N(=[N+]=[N-])CN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C12H14N4O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-[4,5-di(t-butylsulfonyl)-1,2,3-triazol-1-yl]methyl-4-isopropyl-6-methoxysaccharin | C(C)(C)(C)S(=O)(=O)C=1N=NN(C1S(=O)(=O)C(C)(C)C)CN1S(=O)(=O)C2=CC(=CC(=C2C1=O)C(C)C)OC | C22H32N4O8S3
